Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Lower GI bleed
 
Major Surgical or Invasive Procedure:
extended R colectomy

 
History of Present Illness:
___ yo F presenting with 4 days of bloody diarrhea and diffuse 
abdominal pain. The symptoms started 3 days ago after a trip to 
___. She and other family members stopped at a 
fast-food restaurant on the way home and all members reported 
diarrhea and abdominal pain later that evening. The patient had
two episodes of vomiting that evening, then later diarrhea, 
which quickly became bloody. The diarrhea is described as 
explosive. She estimates ~5 bouts of diarrhea for the last few 
days. The blood turned the bowl a reddish color. She has not 
moved her bowels since early this AM. She also complains of 
sharp pain, diffusely, that has grown progressively worse since 
onset. The pain does not radiate. It is worse in the lower 
abdomen. She denies any prior history of bloody diarrhea. She 
denies any fevers or chills. She has not had any more vomiting 
since the first evening. She also has not eaten or drank much 
since onset of symptoms. Of note, she has had a significantly 
decreased appetite over the last year and reports a 25 pound 
weight loss during this time. She attributes this to the 
Alzheimer's medication she started a while back, which causes 
her to have no appetite. She had a normal colonoscopy in ___. 
She does not have any prior history to suggest cardiovascular 
disease. 

 
Past Medical History:
Aortic stenosis, Hypertension, Hypercholesterolemia, 
Hypothyroidism, Anxiety, Insomnia, Arthritis, s/p 
Hysterectomy(hospital course complicated by gram negative 
sepsis), s/p Vaginal Suspension
 
Social History:
___
Family History:
Negative for premature coronary artery disease
 
Physical Exam:
Day of discharge 

VS. 98.4 98.4 73 132/74 18 94 RA

Gen: NAD
Card: RRR No M/R/G
Lungs: CTAB
ABD: +BS soft, non-distended, appropriately tender
Wound C/D/I

 
Pertinent Results:
___ 04:40PM   ___
___ 04:40PM   PLT SMR-LOW PLT COUNT-133*
___ 04:40PM   HYPOCHROM-NORMAL ANISOCYT-NORMAL 
POIKILOCY-NORMAL MACROCYT-1+ MICROCYT-NORMAL POLYCHROM-NORMAL
___ 04:40PM   NEUTS-65 BANDS-20* LYMPHS-3* MONOS-6 EOS-0 
BASOS-0 ATYPS-6* ___ MYELOS-0
___ 04:40PM   WBC-7.6 RBC-4.21 HGB-13.1 HCT-38.7 MCV-92 
MCH-31.2 MCHC-34.0 RDW-14.6
___ 04:40PM   LACTATE-2.0
___ 04:40PM   COMMENTS-GREEN TOP
___ 04:40PM   TOT PROT-6.7
___ 04:40PM   cTropnT-<0.01
___ 04:40PM   ALT(SGPT)-23 AST(SGOT)-35 TOT BILI-0.6
___ 04:40PM   estGFR-Using this
___ 04:40PM   GLUCOSE-143* UREA N-52* CREAT-2.4*# 
SODIUM-138 POTASSIUM-3.4 CHLORIDE-103 TOTAL CO2-23 ANION GAP-15
___ 05:22PM   VoidSpec-UNLABELED 
___ 07:28PM URINE  ___ 07:28PM URINE  ___ BACTERIA-FEW YEAST-NONE 
___ 07:28PM URINE  BLOOD-MOD NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-NEG
___ 07:28PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 07:28PM URINE  GR HOLD-HOLD
___ 07:28PM URINE  HOURS-RANDOM
___ 08:14PM   LACTATE-1.6
 
Brief Hospital Course:
The pt presented to ___ from her PCP's office secondary to 
bloody stool and abd pain. She was admitted to the TICU for 
assessment. She was made NPO except meds and was started IVF and 
a foley was placed. 
.
A CT scan of her abdomen and pelvis on ___ indicated: Bowel wall 
thickening and surrounding stranding/fluid involving the cecum, 
ascending and proximal transverse colon, compatible with 
colitis. Pneumatosis within the cecum was worrisome for an 
ischemic etiology. There was no evidence of free intraperitoneal 
air or portal venous gas detected. Stool samples were sent to 
rule out C.dif and all were negative. She was transferred to 
___ for continued assessment. 
.
The patient was clinically well with only mild abdominal pain 
and no fever or leukocytosis. However on ___ she has had 
increasing abdominal pain and tenderness with right-sided 
peritonitis, and a repeat CT scan showed persistent pneumatosis 
of the ascending and proximal transverse colon as well as 
significant stranding within the mesentery. The patient was 
placed on telemetry secondary to ischemic bowel and 
plans for surgery were discussed with the patient and her 
husband. She was pre-op'd and underwent an extended R colectomy 
on ___. 
.
She returned to ___ from the PACU and was made NPO except 
meds. She had a foley, IV hydration and a PCA. With the return 
of bowel function and flatus the patient was started on sips and 
advanced as tolerated. On the day of discharge, the patient was 
tolerating a regular diet, had continued passage of flatus, her 
pain was well controlled on an oral pain regimen. 

 
Medications on Admission:
AMLODIPINE - 10 mg Tablet - 1 Tablet(s) by mouth once a day
AMOXICILLIN - 500 mg Tablet - 3 Tablet(s) by mouth 1 hour prior
to dental work
ATORVASTATIN [LIPITOR] - 40 mg Tablet - ___  Tablet(s) by mouth
once a day
DONEPEZIL - 10 mg Tablet - 1 Tablet(s) by mouth with food daily
FLUTICASONE - 50 mcg Spray, Suspension - 2 sprays nostril once a
day
KETOCONAZOLE - 2 % Cream - apply to effected area twice a day
LEVOTHYROXINE [LEVOXYL] - 100 mcg Tablet - 1 Tablet(s) by mouth
once a day
MEMANTINE [NAMENDA TITRATION PAK] - 5 mg (28)-10 mg (21) 
Tablets,
Dose Pack - 1 Tablets(s) by mouth as directed on the package
Titration Pack
MEMANTINE [NAMENDA] - 10 mg Tablet - 1 (One) Tablet(s) by mouth
twice a day - No Substitution
QUETIAPINE [SEROQUEL] - 25 mg Tablet - 1 Tablet(s) by mouth 
twice
a day
SERTRALINE - 100 mg Tablet - 1 Tablet(s) by mouth in the morning
VITAMINC C -  (Prescribed by Other Provider) - Dosage uncertain
ZOSTER VACCINE LIVE (PF) [ZOSTAVAX] - 19,400 unit Recon Soln - 
IM
deltoid x 1
ASPIRIN - 81 mg Tablet, Delayed Release (E.C.) - 1 Tablet(s) by
mouth once a day
MULTIVITAMINS -  (OTC) -   Tablet, Chewable - 1 Tablet(s) by
mouth daily
OMEGA-3 FATTY ACIDS-VITAMIN E [OMEGA-3 FISH OIL] - 1,000 mg-5
unit Capsule - 1 Capsule(s) by mouth once a day

 
Discharge Medications:
1. Levothyroxine 100 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Omega-3 Fatty Acids     Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
3. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
4. Atorvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. Amlodipine 5 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  

6. Quetiapine 25 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
7. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain for 2 weeks: Please do not exceed more 
than 4000 mg in 24 hrs. .  
8. Sertraline 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
9. Memantine 5 mg Tablet Sig: Two (2) Tablet PO bid ().  
10. Donepezil 5 mg Tablet Sig: Two (2) Tablet PO HS (at 
bedtime).  
11. Oxycodone-Acetaminophen ___ mg Tablet Sig: One (1) Tablet 
PO Q4H (every 4 hours) as needed.
Disp:*25 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary: 
ischemic R bowel 
. 
Secondary: 
Hypertension, Hypothyroidism, Alzheimer's dementia 
PSH: Aortic valve replacement (Bovine), Hysterectomy ___ 
c/b bladder injury, Bladder suspension.  

 
Discharge Condition:
Stable.
Tolerating a regular diet. 
Pain well controlled with oral medications.

 
Discharge Instructions:
Please call your doctor or return to the ER for any of the 
following:
* You experience new chest pain, pressure, squeezing or 
tightness.
* New or worsening cough or wheezing.
* If you are vomiting and cannot keep in fluids or your 
medications.
* You are getting dehydrated due to continued vomiting, 
diarrhea or other reasons. Signs of dehydration include dry 
mouth, rapid heartbeat or feeling dizzy or faint when standing.
* You see blood or dark/black material when you vomit or have a 
bowel movement.
* Your pain is not improving within ___ hours or not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or is changing location or moving to your chest or 

back.

*Avoid lifting objects > 5lbs until your follow-up appointment 
with the surgeon.

*Avoid driving or operating heavy machinery while taking pain 
medications.
* You have shaking chills, or a fever greater than 101.5 (F) 
degrees or 38(C) degrees.
* Any serious change in your symptoms, or any new symptoms that 
concern you. 
* Please resume all regular home medications and take any new 
meds 
as ordered. 
* Continue to ambulate several times per day.

.
Incision Care:
-Your staples will be removed at your follow up appointment with 
Dr. ___ .
-Steri-strips will be applied and they will fall off on their 
own. Please remove any remaining strips ___ days after 
application.
-You may shower, and wash surgical incisions.
-Avoid swimming and baths until your follow-up appointment.
-Please call the doctor if you have increased pain, swelling, 
redness, or drainage from the incision sites.

 
Followup Instructions:
___